US05612286
5. 4-Methoxy-2-[(phenoxycarbonyl)amino]-6-trifluoromethylpyrimidine
4.2 g of phenol (45 mmol) were added at 25° C. to a solution of 9.9 g of 2-isocyanato-4-methoxy-6-trifluoromethylpyrimidine (45 mmol) in 50 ml of methylene chloride. Stirring was carried out for 16 hours at 25° C., the methylene chloride was distilled off under reduced pressure and the residue was stirred vigorously with 100 ml of a diisopropyl ether/hexane mixture (v/v 1:20), whereupon crystallization occurred. The product was filtered off with suction and dried under reduced pressure from a water pump at 50° C. The title compound (12.2 g; 87% of theory) was obtained as colorless crystals of melting point 85°-88° C.

reactant | phenol | 45 mmol, 4.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2-isocyanato-4-methoxy-6-trifluoromethylpyrimidine | 45 mmol, 9.9 g | N(=C=O)C1=NC(=CC(=N1)OC)C(F)(F)F | C7H4F3N3O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-Methoxy-2-[(phenoxycarbonyl)amino]-6-trifluoromethylpyrimidine | 12.2 g, 87% | COC1=NC(=NC(=C1)C(F)(F)F)NC(=O)OC1=CC=CC=C1 | C13H10F3N3O3
